* Extracted Netlist
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd

* Supply
Vdd vdd gnd 'SUPPLY'

* SPICE3 file created from D_Flip_Flop.ext - technology: scmos

.option scale=0.09u

M1000 GND D_FF_High_Inter a_n17_12# Gnd CMOSN w=20 l=2
+  ad=330 pd=172 as=120 ps=52
M1001 DFF_Inter clk a_n68_33# w_n103_27# CMOSP w=40 l=2
+  ad=200 pd=90 as=160 ps=88
M1002 DFF_Inter a_n90_8# GND Gnd CMOSN w=13 l=2
+  ad=65 pd=36 as=0 ps=0
M1003 a_n68_33# a_n90_8# VDD w_n103_27# CMOSP w=40 l=2
+  ad=0 pd=0 as=600 ps=280
M1004 a_n17_46# clk D_FF_High_Inter Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=120 ps=52
M1005 D_FF_High_Inter DFF_Inter VDD w_n103_27# CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1006 a_n17_12# clk DFF_Out Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=100 ps=50
M1007 DFF_Out D_FF_High_Inter VDD w_n103_27# CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1008 a_n90_8# clk a_n90_33# w_n103_27# CMOSP w=40 l=2
+  ad=200 pd=90 as=160 ps=88
M1009 GND DFF_Inter a_n17_46# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 a_n90_8# DFF_In GND Gnd CMOSN w=13 l=2
+  ad=65 pd=36 as=0 ps=0
M1011 a_n90_33# DFF_In VDD w_n103_27# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
C0 w_n103_27# clk 0.33fF
C1 DFF_In w_n103_27# 0.06fF
C2 DFF_Inter D_FF_High_Inter 0.02fF
C3 D_FF_High_Inter w_n103_27# 0.15fF
C4 VDD clk 0.31fF
C5 GND DFF_In 0.02fF
C6 DFF_Inter w_n103_27# 0.23fF
C7 w_n103_27# a_n90_8# 0.09fF
C8 DFF_In clk 0.03fF
C9 D_FF_High_Inter VDD 0.04fF
C10 D_FF_High_Inter GND 0.05fF
C11 D_FF_High_Inter clk 0.05fF
C12 DFF_Inter VDD 0.14fF
C13 GND a_n90_8# 0.02fF
C14 w_n103_27# VDD 0.20fF
C15 DFF_Inter clk 0.25fF
C16 a_n90_8# clk 0.03fF
C17 w_n103_27# DFF_Out 0.02fF
C18 DFF_Out Gnd 0.03fF
C19 GND Gnd 0.19fF
C20 D_FF_High_Inter Gnd 0.17fF
C21 DFF_Inter Gnd 0.22fF
C22 VDD Gnd 0.16fF
C23 a_n90_8# Gnd 0.16fF
C24 clk Gnd 0.64fF
C25 DFF_In Gnd 0.11fF
C26 w_n103_27# Gnd 4.17fF

VClk clk gnd pulse SUPPLY 0 0 50p 50p 0.5ns 1ns
VD DFF_in gnd pulse 0 SUPPLY 0 50p 50p 0.9ns 1.8ns

.measure tran trise
+ TRIG V(DFF_out) VAL = 'SUPPLY / 10' RISE = 1
+ TARG V(DFF_out) VAL = '9 * SUPPLY / 10' RISE = 1

.measure tran tfall
+ TRIG V(DFF_out) VAL = '9 * SUPPLY / 10' FALL = 1
+ TARG V(DFF_out) VAL = 'SUPPLY / 10' FALL = 1

.measure tran delay param = '(trise + tfall) / 2'

.measure tran tcqrise
+ TRIG V(clk) VAL = 'SUPPLY / 2' RISE = 1
+ TARG V(DFF_out) VAL = 'SUPPLY / 2' RISE = 1

.measure tran tcqfall
+ TRIG V(clk) VAL = 'SUPPLY / 2' RISE = 2
+ TARG V(DFF_out) VAL = 'SUPPLY / 2' FALL = 1

.measure tran tcq param = '(tcqrise + tcqfall) / 2'

.tran 1ps 5ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3

let clock = 'clk + 4'
let input = 'DFF_in + 2'
let output = 'DFF_out'
plot clock input output

.endc

.end